US06329381B1
[(6-Amino-9-benzyl-8-hydroxy-2-purinyl)thio]acetamide
A 28% ammonia/methanol solution was added to 6-amino-9-benzyl-8-hydroxy-2-(methoxycarbonylmethyl)thiopurine (75 mg, 0.22 mmol). The solution was heated in autoclave for 6 hours and then the solvent was removed in vacuo. To the residue was added methanol and the resulting crystals were filtered to give the subject compound (64 mg, yield 89%).

reactant | ammonia methanol | N.CO
reactant | 6-amino-9-benzyl-8-hydroxy-2-(methoxycarbonylmethyl)thiopurine | 0.22 mmol, 75 mg | NC1=C2N=C(N(C2=NC(=N1)SCC(=O)OC)CC1=CC=CC=C1)O | C15H15N5O3S
product | [(6-Amino-9-benzyl-8-hydroxy-2-purinyl)thio]acetamide | 64 mg, yield 89% | NC1=C2N=C(N(C2=NC(=N1)SCC(=O)N)CC1=CC=CC=C1)O | C14H14N6O2S
